US06423869B1
diphenylmethyl (S)-3-[(2S, 3R,4R,5S)-6-acetoxy-5-((N-benzyloxycarbonyl-L-valyl)-L-leucyl)amino-2,3,4-trihydroxyhexanoyl]amino-3-phenylpropionate
To a solution of diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-((N-benzyloxycarbonyl-L-valyl)-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate (200 mg) in pyridine (1 ml) was added acetic anhydride (0.0243 ml) and the mixture was stirred at room temperature for 14 hours. After concentration under reduced pressure, the residue was passed through silica gel column chromatography, followed by elution with ethyl acetate-methanol (20:1). The effective fractions were combined and concentrated under reduced pressure to give a residue, which was recrystallized from mthanol-diethylether to provide the title compound (103 mg).

reactant | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-((N-benzyloxycarbonyl-L-valyl)-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate | 200 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)O)O)O)CO | C47H58N4O11
reactant | acetic anhydride | 0.0243 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | diphenylmethyl (S)-3-[(2S, 3R,4R,5S)-6-acetoxy-5-((N-benzyloxycarbonyl-L-valyl)-L-leucyl)amino-2,3,4-trihydroxyhexanoyl]amino-3-phenylpropionate | 103 mg | C(C)(=O)OC[C@@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)O)O)O)NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)CC(C)C)=O | C49H60N4O12
